US09063126B2
1-(diphenylmethylene)-2-(4-fluorophenyl)hydrazine
General procedure A was used to convert benzophenone hydrazone (1.962 g, 10.0 mmol; Aldrich) and 1-bromo-4-fluorobenzene (1.75 g, 10.0 mmol; source) to the title compound. MS (DCI/NH3) m/z 291 (M+H)+.

reactant | benzophenone hydrazone | 10.0 mmol, 1.962 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | 1-bromo-4-fluorobenzene | 10.0 mmol, 1.75 g | BrC1=CC=C(C=C1)F | C6H4BrF
product | 1-(diphenylmethylene)-2-(4-fluorophenyl)hydrazine | C1(=CC=CC=C1)C(=NNC1=CC=C(C=C1)F)C1=CC=CC=C1 | C19H15FN2
